US04008272
Ethylene diamine is reacted with 3,4-dichloronitrobenzene to form 4-nitro-2-chloro-N-(β-aminoethyl) aniline, which is reacted in an acetic solution with potassium isocyanate to form 4-nitro-2-chloro-N-(β-ureidoethyl) aniline. This latter compound is reduced with hydrazine in the presence of Raney's nickel, yielding 4-amino-2-chloro-N-(β-ureidoethyl) aniline.

reactant | Ethylene diamine | C(CN)N | C2H8N2
reactant | 3,4-dichloronitrobenzene | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
product | 4-nitro-2-chloro-N-(β-aminoethyl) aniline | [N+](=O)([O-])C1=CC(=C(NCCN)C=C1)Cl | C8H10ClN3O2
